US08937150B2
4,4′-(1-(4-fluorophenyl)pyrrolidine-2,5-diyl)bis(N-(4-methoxybenzyl)-2-nitroaniline)
2,5-Bis(4-chloro-3-nitrophenyl)-1-(4-fluorophenyl)pyrrolidine (0.88 g, 1.86 mmol) was combined with 4-methoxy benzylamine (3.64 mL, 28.0 mmol) and heated at 145° C. for 1 hour in a microwave reactor. The mixture was diluted with dichloromethane and filtered. The filtrate was concentrated and purified by chromatography on silica gel with a 330 g column, eluting with 0-60% ethyl acetate/hexanes to give 0.79 g (62%) of an orange foam solid.

reactant | 2,5-Bis(4-chloro-3-nitrophenyl)-1-(4-fluorophenyl)pyrrolidine | 1.86 mmol, 0.88 g | ClC1=C(C=C(C=C1)C1N(C(CC1)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])C1=CC=C(C=C1)F)[N+](=O)[O-] | C22H16Cl2FN3O4
reactant | 4-methoxy benzylamine | 28.0 mmol, 3.64 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4,4′-(1-(4-fluorophenyl)pyrrolidine-2,5-diyl)bis(N-(4-methoxybenzyl)-2-nitroaniline) | 0.79 g, 62% | FC1=CC=C(C=C1)N1C(CCC1C1=CC(=C(NCC2=CC=C(C=C2)OC)C=C1)[N+](=O)[O-])C1=CC(=C(NCC2=CC=C(C=C2)OC)C=C1)[N+](=O)[O-] | C38H36FN5O6
